US06787543B2
A mixture of 2,2,2-trifluoro-N-(4-fluoro-3-methylphenyl)acetamide (14.3 g) and triphenylphosphine (19.5 g) in tetrachloromethane (140 ml) was stirred for 17 hours at 100° C. An additional triphenylphosphine (5 g) was added to the mixture and the whole was stirred for 5 hours and finally triphenylphosphine (5 g) was added to the mixture, and the whole was stirred further for 15 hours at 100° C. After being cooled to room temperature hexane was added to the reaction mixture and the whole was stirred for 0.5 hour under ice-cooling. The resulting precipitate was removed by filtration and washed with hexane. The combined filtrate and washing were evaporated under reduced pressure below 20° C. A mixture of the syrup obtained and sodium azide (10.6 g) in acetic acid (100 ml) was stirred at room temperature for 7 hours, followed by at 70° C. for 17 hours. After being cooled to room temperature, the mixture was poured into ice-water, and extracted with dichloromethane. The organic layer was separated, dried over magnesium sulfate, and evaporated under reduced pressure. The syrup was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (100:1-5:1). The fractions containing the objective compound were collected to give 1-(4-fluoro-3-methylphenyl)-5-(trifluoromethyl)-1H-tetrazole (15.2 g) as a syrup.

reactant | 2,2,2-trifluoro-N-(4-fluoro-3-methylphenyl)acetamide | 14.3 g | FC(C(=O)NC1=CC(=C(C=C1)F)C)(F)F | C9H7F4NO
reactant | triphenylphosphine | 19.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexane | CCCCCC | C6H14
reactant | sodium azide | 10.6 g | [N-]=[N+]=[N-].[Na+]
solvent | tetrachloromethane | 140 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-(4-fluoro-3-methylphenyl)-5-(trifluoromethyl)-1H-tetrazole | 15.2 g | FC1=C(C=C(C=C1)N1N=NN=C1C(F)(F)F)C | C9H6F4N4
